US03993674
Preparation of 4-carboxybutyltriphenylphosphonium bromide
A mixture of 103 g. of 5-bromoval eric acid and 152 g. of triphenylphosphine in 400 ml. of acetonitrile is refluxed for 48 hours, cooled, diluted with 100 ml. of benzene and allowed to crystallize. The crystals are filtered, washed with benzene and ether, to yield colorless material, m.p. 207°-209° C.

reactant | 5-bromoval eric acid | BrCCCCC(=O)O | C5H9BrO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetonitrile | C(C)#N | C2H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-carboxybutyltriphenylphosphonium bromide | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C23H23O2P.BrH/c24-23(25)18-10-11-19-26(20-12-4-1-5-13-20,21-14-6-2-7-15-21)22-16-8-3-9-17-22;/h1-9,12-17H,10-11,18-19H2;1H
